US07208498B2
Step A. 4-Methoxy-7-(phenylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine
4-Chloro-7-(phenylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (98 mg, 0.30 mmol) and 1.5 mL of 0.5 M sodium methoxide in methanol was warmed to 60° C. overnight. The mixture was concentrated under nitrogen and partitioned between ether and water. The ether layer was washed with brine, dried and concentrated to give 94 mg of the title compound as a yellow oil. LC-MS 324.0 (M+1).

reactant | 4-Chloro-7-(phenylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.30 mmol, 98 mg | ClC=1C2=C(N=C(N1)C(F)(F)F)CN(CC2)CC2=CC=CC=C2 | C15H13ClF3N3
reactant | sodium methoxide | 0.5 M, 1.5 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 4-Methoxy-7-(phenylmethyl)-2-(trifluoromethyl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 94 mg | COC=1C2=C(N=C(N1)C(F)(F)F)CN(CC2)CC2=CC=CC=C2 | C16H16F3N3O
